US03992392
Conversion of the dimethyl acetal from part A to 3-methylthioindole was accomplished by stirring 0.50 g (2.20 mmol) of the dimethylacetal dissolved in 25 ml of ethyl ether for 2 hr. with 10 ml of 0.5 N aqueous hydrogen chloride. The ethereal layer was separated, treated with a saturated sodium bicarbonate solution, dried, filtered and evaporated to yield 0.35 g (2.14 mmol, 97%) of the oily 3-methylthioindole. This 3-methylthioindole was treated with Raney nickel as described to form indole, identified by comparison with an authentic sample.

reactant | 3-methylthioindole | CSC1=CNC2=CC=CC=C12 | C9H9NS
catalyst | Raney nickel | [Ni] | Ni
product | indole | N1C=CC2=CC=CC=C12 | C8H7N
